US08124766B2
A mixture of trans-cyclohexane-1,4-dicarboxylic acid mono-benzyl ester (50 mg, 0.16 mmol), CH2Cl2 (5 mL), and a catalytic amount of DMF was stirred under Ar, and oxalyl chloride (2M in dichloromethane, 200 μL, 0.4 mmol) was dripped into the mixture over 5 min. The mixture was stirred at room temperature and after 1.0 hr the reaction was concentrated to dryness. Benzene was added and the solution was evaporated to dryness again. The white-yellow solid was re-dissolved in 5 mL of CH2Cl2 and dripped, under Ar, into a solution of 1-ethyl-4-methoxy-1H-indole-2-carboxylic acid (6-piperazin-1-yl-pyridin-3-yl)-amide (60.0 mg, 0.16 mmol), triethylamine (0.41 mg, 0.2 mmol) in 5 mL of CH2Cl2. The reaction was stirred at room temperature for 0.5 hr then concentrated and the residue was taken up in 50 mL of EtOAc and washed with 50 mL of saturated ammonium chloride, brine and dried with anhydrous sodium sulfate. The solvent was removed, and the crude product was purified by flash chromatography (hexanes:EtOAc), to afford the product trans-4-(4-{5-[(1-ethyl-4-methoxy-1H-indole-2-carbonyl)-amino]-pyridin-2-yl}-piperazine-1-carbonyl)-cyclohexanecarboxylic acid benzyl ester (35 mg, 37% yield) as a white solid. LCMS for C36H41N5O5 calcd. (m/e) 623, observed 624 (M+H).

reactant | trans-cyclohexane-1,4-dicarboxylic acid mono-benzyl ester | 0.16 mmol, 50 mg | C(C1=CC=CC=C1)OC(=O)[C@@H]1CC[C@H](CC1)C(=O)O | C15H18O4
reactant | oxalyl chloride | 0.4 mmol, 2M, 200 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 1-ethyl-4-methoxy-1H-indole-2-carboxylic acid (6-piperazin-1-yl-pyridin-3-yl)-amide | 0.16 mmol, 60.0 mg | N1(CCNCC1)C1=CC=C(C=N1)NC(=O)C=1N(C2=CC=CC(=C2C1)OC)CC | C21H25N5O2
reactant | triethylamine | 0.2 mmol, 0.41 mg | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
solvent | DMF | CN(C)C=O | C3H7NO
product | trans-4-(4-{5-[(1-ethyl-4-methoxy-1H-indole-2-carbonyl)-amino]-pyridin-2-yl}-piperazine-1-carbonyl)-cyclohexanecarboxylic acid benzyl ester | 35 mg, 37% yield | C(C1=CC=CC=C1)OC(=O)[C@@H]1CC[C@H](CC1)C(=O)N1CCN(CC1)C1=NC=C(C=C1)NC(=O)C=1N(C2=CC=CC(=C2C1)OC)CC | C36H41N5O5
